US07259177B2
2-[cis-3-(5-Methyl-2-p-tolyloxazol-4-ylmethoxymethyl)cyclohexylmethoxy]-2-methylpropionic acid
50 mg of tert-butyl 2-[cis-3-(tert-butyldimethylsilanyloxymethyl)cyclohexyl-methoxy]-2-methylpropionate are added to a mixture of 20 mg of BiBr3 and 30 mg of HSiEt3 in 0.5 ml of acetonitrile. 38 mg of 5-methyl-2-p-tolyloxazole-4-carbaldehyde in 0.2 ml of acetonitrile are added dropwise, and the mixture is stirred at room temperature overnight. The resulting black solid is filtered and the filtrate is concentrated and taken up in 1 ml of trifluoroacetic acid. The solution is stirred at room temperature overnight. The solvent is distilled off under reduced pressure and the residue is purified by HPLC. This gives 3.4 mg of 2-[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxymethyl)cyclohexylmethoxy]-2-methylpropionic acid as a colorless oil. C24H33NO5 (415.24); MS (ES−): 414.25 (M−H+).

reactant | tert-butyl 2-[cis-3-(tert-butyldimethylsilanyloxymethyl)cyclohexyl-methoxy]-2-methylpropionate | 50 mg | [Si](C)(C)(C(C)(C)C)OC[C@H]1C[C@H](CCC1)COC(C(=O)OC(C)(C)C)(C)C | C22H44O4Si
reactant | HSiEt3 | 30 mg | [SiH](CC)(CC)CC | C6H16Si
reactant | 5-methyl-2-p-tolyloxazole-4-carbaldehyde | 38 mg | CC1=C(N=C(O1)C1=CC=C(C=C1)C)C=O | C12H11NO2
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 0.2 ml | C(C)#N | C2H3N
product | 2-[cis-3-(5-Methyl-2-p-tolyloxazol-4-ylmethoxymethyl)cyclohexylmethoxy]-2-methylpropionic acid | CC1=C(N=C(O1)C1=CC=C(C=C1)C)COC[C@H]1C[C@H](CCC1)COC(C(=O)O)(C)C | C24H33NO5
